US06472410B1
Step A: Methyl (+−)-trans-4-methylene-2-(3-fluorophenyl)cyclopentanoate
A mixture of methyl trans-3-fluorocinnamate (41.25 g, 229 mmol), tetrakis(triphenylphosphine) palladium(0) (18.5 g, 16 mmol), 1,2-bis(diphenylphosphino)ethane (5.5 g, 13.7 mmol) and 2-((trimethylsilyl)methyl)-2-propen-1-yl acetate (42.66 g, 229 mmol) in THF (300 mL) under nitrogen was heated to reflux for 6 h and then stirred at rt for 16 h. The reaction was diluted with hexane and filtered to remove yellow precipitate. The volatiles were then removed in vacuo and the residue was purified by FC (3 to 5% ethyl acetate in hexanes) to afford the title compound (45 g).

reactant | methyl trans-3-fluorocinnamate | 229 mmol, 41.25 g | FC=1C=C(/C=C/C(=O)OC)C=CC1 | C10H9FO2
reactant | 2-((trimethylsilyl)methyl)-2-propen-1-yl acetate | 229 mmol, 42.66 g | C(C)(=O)OCC(=C)C[Si](C)(C)C | C9H18O2Si
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphine) palladium(0) | 16 mmol, 18.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | 1,2-bis(diphenylphosphino)ethane | 13.7 mmol, 5.5 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
product | Methyl (+−)-trans-4-methylene-2-(3-fluorophenyl)cyclopentanoate | 45 g | C=C1C[C@H]([C@@H](C1)C(=O)OC)C1=CC(=CC=C1)F | C14H15FO2
